US08044052B2
Synthesis of 4-(3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(2-fluorophenyl)piperidine-1-carboxamide (PF-04551858)
To a solution of 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine hydrochloride (0.150 g) and triethylamine (0.124 mL, 2.20 equiv) in dichloromethane (2 mL, 0.2 M) was added 4-fluorophenyl isocyanate (0.050 mL, 1.1 equiv). The reaction was stirred at room temperature for 18 h. Water was added and the mixture was extracted with dichloromethane (2×). The combined organic extracts was washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (0-10% ethyl acetate/dichloromethane) to give the title compound as a white solid (0.172 g, 90% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.47 (2H, t, J=6.0 Hz), 2.61 (2H, t, J=5.6 Hz), 3.52 (2H, t, J=6.0 Hz), 3.61 (2H, t, J=5.8 Hz), 6.41 (1H, s), 6.64 (1H, d, J=3.5 Hz), 6.94-7.05 (5H, m), 7.07-7.12 (2H, m), 7.39 (1H, t, J=7.8 Hz), 7.90 (1H, dd, J=8.8, 2.5 Hz), 8.10 (1H, td, J=8.2, 1.7 Hz), 8.44 (1H, dd, J=1.6, 0.8 Hz).

reactant | 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine hydrochloride | 0.150 g | Cl.N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1
reactant | triethylamine | 0.124 mL, 2.20 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl isocyanate | 0.050 mL, 1.1 equiv | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | Water | O | H2O
solvent | dichloromethane | 0.2 M, 2 mL | ClCCl | CH2Cl2
product | 4-(3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(2-fluorophenyl)piperidine-1-carboxamide | 0.172 g, 90% yield | FC(C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC2=C(C=CC=C2)F)C=CC1)(F)F | C25H21F4N3O2
